US08022222B2
Step A: Preparation of 2-chloro-3-fluoro-4-(phenylthio)pyridine:
2-Chloro-3-fluoropyridine (3.00 g, 22.8 mmol) was added to a mixture of 1.8 M lithium diisopropyl amide (19.0 ml, 34.2 mmol) and THF (50 mL) at −78° C. The reaction was stirred for an hour at −78° C., and then a solution of 1,2-diphenyldisulfane (9.96 g, 45.6 mmol) in THF (5 mL) was added. The reaction was stirred for an hour at −78° C. and then quenched with saturated ammonium chloride and partitioned between ether and water. The organic layer was washed with 2N NaOH, 2N HCl, brine, dried (MgSO4), and concentrated. The crude material was purified via MPLC (Biotage) eluting with 10:1 hexane:ethyl acetate to afford the desired product (3.95 g, 72.3% yield) as a pale yellow oil.

reactant | 2-Chloro-3-fluoropyridine | 22.8 mmol, 3.00 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | lithium diisopropyl amide | 34.2 mmol, 1.8 M, 19.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,2-diphenyldisulfane | 45.6 mmol, 9.96 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-chloro-3-fluoro-4-(phenylthio)pyridine | 3.95 g, 72.3% yield | ClC1=NC=CC(=C1F)SC1=CC=CC=C1 | C11H7ClFNS
